US04178377
EXAMPLE 9: 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)-N-phenylpropionamide
48 cc of n-butyl-lithium in hexane are added dropwise at 0°, in an atmosphere of nitrogen with stirring, to a solution of 9 g of N-phenylpropionamide in 90 cc of anhydrous tetrahydrofuran. The mixture is stirred at 45°-48° for 21/2 hours and a solution of 10.5 g of N-o-chlorophenethyl-4-piperidone in 25 cc of anhydrous tetrahydrofuran is added dropwise within 50 minutes. The heating (oil bath) is removed and the reaction mixture is stirred for a further hour while cooling slowly. 10 cc of a 20% potassium carbonate solution are subsequently added to the reaction solution while stirring and cooling with ice, dilution is effected with ether and the organic phase is decanted, dried over magnesium sulphate and concentrated by evaporation at reduced pressure. The resulting crude compound is filtered over silica gel resulting crude compound is filtered over silica gel (eluant: chloroform containing 3% of methanol) and an equivalent amount of fumaric acid is added to the resulting title compound in ethanol whereby this crystallizes as hydrogen fumarate. The hydrogen fumarate form of the title compound has a M.P. of 159°-161°.

reactant | n-butyl-lithium | 48 cc | C(CCC)[Li]
reactant | N-phenylpropionamide | 9 g | C1(=CC=CC=C1)NC(CC)=O | C9H11NO
reactant | N-o-chlorophenethyl-4-piperidone | 10.5 g | ClC1=C(CCN2CCC(CC2)=O)C=CC=C1 | C13H16ClNO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 90 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cc | O1CCCC1 | C4H8O
product | 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)-N-phenylpropionamide | ClC1=C(CCN2CCC(CC2)(O)C(C(=O)NC2=CC=CC=C2)C)C=CC=C1 | C22H27ClN2O2
